data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3795,"CCCCCCN1CCC23C4=C(C=CC(OC)=C4O)CC1C2C[CH+:1][C:2](O)=[CH:3]3.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,2272,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[O-:3].O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6483,"CCCC(N(C)CCC)=[O+:1][Li:2].CC[BH-](CC)CC.[AlH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,2873,"C=CC[CH:1](CC=C)[Li:2].CC(C)[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,841,"CCOC(=O)[CH:1]([H:2])[C:3](OCC)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5049,"CC#[N:1].CCOCC.O=C1CC(O)[CH:2]=[N+:3]1CC1=CC=CC=C1.O[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8476,"CC(C)(O)[C:1]1([H:2])C=CC=C1.CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,445,"CC(C)[N:1](C(C)C)[Li-:2][O+:3]=[C:4]1C=CC(C)(C)C[C:5]1(C)[H:6]|((2, 1), 6);((6, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9033,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CN(C(=O)N(C)C1CCN(C2([OH:3])CCC(=O)C2)CC1C1=CC=C(F)C=C1)C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6781,"C[C:1](C1=CC(Br)=CC=C1)([CH:2]=[C:3](C1=CC(Br)=CC=C1)[O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,9653,"C[O+:1]=[CH:2][S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3808,"CCC1CC[CH2:1][C:2]([CH2:3][N+:4]#N)([OH:5])C1.O.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2234,"C[S+]([O-])CC(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH-:1][S+:2](C)[O:3]C(=O)C(F)(F)F.O=C(O)C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6237,"CC(C)[O-:1].CCC[CH2][Sn:2]([CH2][CH+]CC([O][Ti]([O]C(C)C)([O]C(C)C)[O]C(C)C)C(C)=CC1=CSC(C)=N1)([CH2]CCC)[CH2]CCC|(1, 2)"
train,pmechdb_split_0,0,8473,"CC(C)[O+:1]=[CH:2]CCC1=CC=CC=C1.C[Si](C)(C)C[CH:3]=[CH2:4].C[Si](C)(C)O[Si](C)(C)C.O=S(=O)([O-])C(F)(F)F|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9203,"CC(C)(C)[Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,5363,"COC1=C2OC3C45CCN(C)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8481,"CC#N.CC[O+:1](CC)[B-:2](F)(F)F.O=C1CC(O)C(O)N1CC1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,6301,"C1COCCO1.CC(=O)C1=CC(F)=C(N2CCN([C:1](C3=C(F)C=CC([N+](=O)[O-])=C3)([O-:2])[Cl:3])CC2)C=C1.CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,554,"C1CCNCC1.CC(=O)[O:1][H:2].CO[C:3](=[CH:4]C=CC1=CC=CC=C1)[OH:5].O.O=C=O|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10365,"C=CCC(C1=CC=C(OS(=O)(=O)C2=CC=C(C)C=C2)C=C1)[O:1][CH:2](CCC1=CC=C(OCC2=CC=CC=C2)C=C1)[O:3][C:4](C)=[O+:5][Sn-]([Br])([Br])([Br])[Br]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2764,"C[C+:1](C)C1CC12C(=O)CCCC2[OH:2].O=S(=O)([O-])C(F)(F)F|(2, 1)"
train,pmechdb_split_0,0,7173,"CC[OH:1].C[C:2]1([H:3])CCCC[C+:4]1C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,5108,"C1=CC=NC=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)CCC(C(C)C=O)[C:1]1(C)[OH+:2]CC[O:3]1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2674,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)C(CC1=CC=C(O)C=C1)NC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6426,"C1=CC=C([CH:1]=[O:2])C=C1.C1C[CH:3]=[C:4]([O-:5])C1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1195,"O=S(=O)(C(F)(F)F)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10112,"C[CH:1]=[O+:2][Sn-]([Cl])([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,110,"CCO.CO.COC(=O)C(=CC1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)C(C(=O)[O-:1])=C(C1=CC=CC=C1)C1=CC=CC=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6091,"CCC1=C(O)C=C([CH:1]=[O:2])C=C1.CO.COC(=O)C[CH:3]=[C:4](OC)[O-:5].C[OH+][Na]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8760,"C1CCOC1.COC1=C(Br)C(C(O)[O:1]CCCO)=C(OC)C=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9277,"CCCC1=CC=C([O+:1](C)[B-:2](Br)(Br)Br)C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,1122,"C1=CC=[NH+]C=C1.C[CH:1]([O-:2])[S:3]C1=CC=CC=C1.O=C(OC(=O)C(F)(F)F)C(F)(F)F.O=C(SC1=CC=CC=C1)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7400,"[H:1][OH:2].[Li][O]C(C)(C1=CC=CC=C1)[N:3](C)OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6188,"CO[C:1](OCCC[OH:2])=[NH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,558,"CC1(C2=CC=CC=C2)CCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8163,"CO.COC(=O)N1CCC2C=CC(O[C:1]([CH2:2][H:3])=[N+:4](C)C)C(CCO[Si](C)(C)C(C)(C)C)C21.C[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8906,"C=C[C+:1]1C=C[C:2](C(C)C2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8427,"C1CCC2=[NH+]CCCN2CC1.C=CCO[C:1](=[CH:2]C1=CC=CC=C1)[O-:3].CC1=CC=C(S(=O)(=O)[N-][N+:4]#[N:5])C=C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4277,"COP(=O)(OC)[CH2-:1].C[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7069,"C(CC[CH:1]=[OH+:2])C[OH:3]|(3, 1);((1, 2), 2)"
